US06110934
5-Amino-2-ethyl-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared by treatment of 5-aminoisoquinoline with iodoethane followed by reduction with sodium borohydride using procedures analogous to those described in Preparation 1 and Preparation 2.

reactant | 5-aminoisoquinoline | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | iodoethane | ICC | C2H5I
reactant | sodium borohydride | [BH4-].[Na+]
product | 5-Amino-2-ethyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)CC | C11H16N2
